US07652053B2
cis-(S)-2-({4-[5-Chloro-2-(1-hydroxy-1-methyl-ethyl)-benzoimidazol-1-yl]-cyclohexylamino}-methyl)-indan-5-carbonitrile
This compound was prepared from the hydrochloride salt of cis-2-[1-(4-amino-cyclohexyl)-5-chloro-1H-benzoimidazol-2-yl]-propan-2-ol and (S)-5-cyano-indan-2-carbaldehyde. LC-MS showed a single peak, C27H31ClN4O (m/e) calcd 462.2186, obsd 463.2 (M+H). 1H-NMR (CD3OD) □ 7.96 (d, 1H), 7.59 (s, 1H), 7.57 (s, 1H), 7.49 (d, 1H), 7.38 (d, 1H), 7.18 (d, 1H), 5.38 (m, 1H), 3.22 (m, 2H), 2.75-2.97 (m, 8H), 2.01 (m, 2H), 1.72 (s, 6H), 1.68 (m, 4H).

reactant | cis-2-[1-(4-amino-cyclohexyl)-5-chloro-1H-benzoimidazol-2-yl]-propan-2-ol | N[C@H]1CC[C@H](CC1)N1C(=NC2=C1C=CC(=C2)Cl)C(C)(C)O | C16H22ClN3O
reactant | (S)-5-cyano-indan-2-carbaldehyde | C(#N)C=1C=C2C[C@H](CC2=CC1)C=O | C11H9NO
product | cis-(S)-2-({4-[5-Chloro-2-(1-hydroxy-1-methyl-ethyl)-benzoimidazol-1-yl]-cyclohexylamino}-methyl)-indan-5-carbonitrile | ClC1=CC2=C(N(C(=N2)C(C)(C)O)[C@H]2CC[C@H](CC2)NC[C@H]2CC3=CC=C(C=C3C2)C#N)C=C1 | C27H31ClN4O
